US09278968B2
To a solution of 490 mg of 5-(4-fluorophenyl)-2,2-dimethyl-5-nitro-1,3-dioxane in 7.4 ml of acetic acid was added 628 mg of zinc powder, followed by stirring at room temperature for 2 hours. The insoluble materials were separated by filtration and washed with chloroform, and the filtrate was then concentrated under reduced pressure. To the obtained residue was added a 1 M aqueous sodium hydroxide solution, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 325 mg of 5-(4-fluorophenyl)-2,2-dimethyl-1,3-dioxan-5-amine.

reactant | 5-(4-fluorophenyl)-2,2-dimethyl-5-nitro-1,3-dioxane | 490 mg | FC1=CC=C(C=C1)C1(COC(OC1)(C)C)[N+](=O)[O-] | C12H14FNO4
solvent | acetic acid | 7.4 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 628 mg | [Zn] | Zn
product | 5-(4-fluorophenyl)-2,2-dimethyl-1,3-dioxan-5-amine | 325 mg | FC1=CC=C(C=C1)C1(COC(OC1)(C)C)N | C12H16FNO2
